US06204264B1
(2) 3-Amino-4-{[2-(dimethylamino)ethyl]amino}-N,N-dimethylbenzamide
10% of palladium-carbon (0.535 g) was added to a solution containing 4-{[2-(dimethylamino)ethyl]amino}-N,N-dimethyl-3-nitrobenzamide (2.672 g) in ethanol (27 ml) and the mixture was stirred for 5.5 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated, thereby yielding the entitled compound (2.464 g) as blackish brown oil.

reactant | 4-{[2-(dimethylamino)ethyl]amino}-N,N-dimethyl-3-nitrobenzamide | 2.672 g | CN(CCNC1=C(C=C(C(=O)N(C)C)C=C1)[N+](=O)[O-])C | C13H20N4O3
solvent | ethanol | 27 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.535 g | [C].[Pd]
product | 3-Amino-4-{[2-(dimethylamino)ethyl]amino}-N,N-dimethylbenzamide | 2.464 g | NC=1C=C(C(=O)N(C)C)C=CC1NCCN(C)C | C13H22N4O
